US07935815B2
Synthesis of benzyl (2S*,3R*)-5-(tert-butyldiphenylsilanyloxy)-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoate
IPEA (0.742 mL) and chloromethyl methyl ether (0.324 mL) were added to a solution of benzyl (2S,3R)-5-(tert-butyldiphenylsilanyloxy)-3-hydroxy-2-(3,4,5-trifluorophenyl)pentanoate (840 mg) in 1,2-dichloroethane (20 mL) at 0° C. The reaction solution was stirred at 60° C. for 4 hours and then left to cool to room temperature and concentrated under reduced pressure. Ethyl acetate and a saturated ammonium chloride solution were added to the residue, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 875 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 0.742 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.324 mL | COCCl | C2H5ClO
reactant | benzyl (2S,3R)-5-(tert-butyldiphenylsilanyloxy)-3-hydroxy-2-(3,4,5-trifluorophenyl)pentanoate | 840 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)C1=CC(=C(C(=C1)F)F)F)O | C34H35F3O4Si
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | benzyl (2S*,3R*)-5-(tert-butyldiphenylsilanyloxy)-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoate | 875 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)C1=CC(=C(C(=C1)F)F)F)OCOC | C36H39F3O5Si
